US07064124B2
N-[5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-phenoxybenzoyl]-4-methoxyaniline
p-Methoxyaniline (0.045 g, 0.368 mmol), triethylamine (0.037 g, 0.368 mmol) and 2-chloro-1,3-dimethylimidazolinium chloride (0.062 g, 0.368 mmol) were added to a methylene chloride solution (5 ml) of 5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-phenoxybenzoic acid (0.075 g, 0.184 mmol) and the resulting solution was stirred at room temperature for 12 hours. The reaction solution was poured into ice water and then extracted with methylene chloride. The extract was washed with water and then dried, and the solvent was removed by distillation. The obtained residue was purified by preparative thin-layer chromatography (chloroform:methanol=9:1) to obtain the titled compound (0.040 g, 0.0780 mmol, 42%).

reactant | p-Methoxyaniline | 0.368 mmol, 0.045 g | COC1=CC=C(N)C=C1 | C7H9NO
reactant | triethylamine | 0.368 mmol, 0.037 g | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-1,3-dimethylimidazolinium chloride | 0.368 mmol, 0.062 g | [Cl-].ClC1[NH+](CCN1C)C
reactant | 5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-phenoxybenzoic acid | 0.184 mmol, 0.075 g | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)O)C1)OC1=CC=CC=C1)C)=O | C23H20O7
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | N-[5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-phenoxybenzoyl]-4-methoxyaniline | 0.0780 mmol, 0.040 g, 42% | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)NC2=CC=C(C=C2)OC)C1)OC1=CC=CC=C1)C)=O | C30H27NO7
